US06869952B2
To a solution of 4-phenoxy-5-methyl-6-hydroxypyrrolo-[2,1-f][1,2,4]triazine (1.0 g, 4.15 mmol, as prepared in WO 00/71129, which is hereby incorporated by reference), 3-methanesulfonylpropan-1-ol (1.15 g, 8.3 mmol) and PPh3 (2.17 g, 8.3 mmol) in THF (12 mL) at 0° C., was added DEAD (1.42 g, 8.3 mmol). The mixture was stirred at RT for 1 h. The solvent was removed in vacuo. The residue was dissolved in dichloromethane, washed with brine and dried (Na2SO4). The volatiles were removed and the solid obtained was triturated with dichloromethane to afford 6-(3-methanesulfonylpropoxy)-5-methyl-4-phenoxypyrrolo[2,1-f][1,2,4]triazine as a white solid (1.1 g, 73% yield). MS: (M+H)+=362.

reactant | 4-phenoxy-5-methyl-6-hydroxypyrrolo-[2,1-f][1,2,4]triazine | O(C1=CC=CC=C1)C1=NC=NN2C1=C(C(=C2)O)C | C13H11N3O2
reactant | 3-methanesulfonylpropan-1-ol | 8.3 mmol, 1.15 g | CS(=O)(=O)CCCO | C4H10O3S
reactant | PPh3 | 8.3 mmol, 2.17 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 8.3 mmol, 1.42 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 6-(3-methanesulfonylpropoxy)-5-methyl-4-phenoxypyrrolo[2,1-f][1,2,4]triazine | 1.1 g, 73% yield | CS(=O)(=O)CCCOC=1C(=C2C(=NC=NN2C1)OC1=CC=CC=C1)C | C17H19N3O4S
